US04185009
Preparation of 3,3-bis-(4-hydroxynaphthyl)-oxindole
147 g of isatin and 720 g of α-naphthol are brought together and initially heated to 100° C. Hydrogen chloride gas dried over sulphuric acid is then passed in, during which the temperature rises to 150° C. After the exothermic reaction has subsided the reaction temperature is maintained at 115° C. for a further 5 hours and after cooling, 1,000 ml of ethanol are added to the solidified crystal mass. The crystals, freed from excess phenol, are filtered off and dried. 334 g (80% yield) of colorless crystals are obtained from chloroform/acetone. Melting point 300° C., with decomposition.

reactant | isatin | 147 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | α-naphthol | 720 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | ethanol | 1,000 ml | C(C)O | C2H6O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | chloroform acetone | C(Cl)(Cl)Cl.CC(=O)C
product | 3,3-bis-(4-hydroxynaphthyl)-oxindole | 334 g, 80% yield | OC1=CC=C(C2=CC=CC=C12)C1(C(NC2=CC=CC=C12)=O)C1=CC=C(C2=CC=CC=C12)O | C28H19NO3
